US08222420B2
Production of N-[5-{(Z)-3-(3,5-dichlorophenyl)-4,4,4-trifluoro-1-methoxymethoxyimino-2-butenyl}-indane-1-yl]-3-methoxybutyric acid amide (Compound No. 11)
0.5 g of N-[5-{(Z)-3-(3,5-dichlorophenyl)-4,4,4-trifluoro-1-hydroxyimino-2-butenyl}-indane-1-yl]-3-methoxybutyric acid amide was dissolved in 10 ml of tetrahydrofuran, and 0.08 g of 60% sodium hydride was added to the resulting solution under ice-cold conditions, followed by stirring for 30 minutes at room temperature. The temperature was cooled again, and 0.1 g of chloromethyl methyl ether was added to the resulting solution, followed by stirring for one night at room temperature. The reaction solution was poured into ice-water, extracted with ethyl acetate, washed with saturated brine, followed by drying with anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure and the resulting residue was purified by silica gel column chromatography (eluent: ethyl acetate/n-hexane=7/3 (volume ratio)) to obtain 0.3 g of the target compound. Yield was 54%.

reactant | N-[5-{(Z)-3-(3,5-dichlorophenyl)-4,4,4-trifluoro-1-hydroxyimino-2-butenyl}-indane-1-yl]-3-methoxybutyric acid amide | 0.5 g | ClC=1C=C(C=C(C1)Cl)/C(=C/C(=NO)C=1C=C2CCC(C2=CC1)NC(CC(C)OC)=O)/C(F)(F)F | C24H23Cl2F3N2O3
reactant | sodium hydride | 0.08 g | [H-].[Na+]
reactant | chloromethyl methyl ether | 0.1 g | COCCl | C2H5ClO
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | N-[5-{(Z)-3-(3,5-dichlorophenyl)-4,4,4-trifluoro-1-methoxymethoxyimino-2-butenyl}-indane-1-yl]-3-methoxybutyric acid amide | 0.3 g, Yield was 54% | ClC=1C=C(C=C(C1)Cl)/C(=C/C(=NOCOC)C=1C=C2CCC(C2=CC1)NC(CC(C)OC)=O)/C(F)(F)F | C26H27Cl2F3N2O4
